US06313122B1
A. 2-(4-tert-Butylphenyl)-4H-3,1-benzoxazin-4-one
To a stirred solution of anthranilic acid (34.3 g, 250 mmol) in pyridine (400 mL) was added 4-tert-butylbenzoyl chloride (94 mL, 500 mL) dropwise via an addition funnel. After stirring for 12 h, the solution was poured onto a slurry of ice and 2 N aqueous hydrochloric acid (100 mL). The mixture was extracted with dichloromethane and the organic extract was concentrated in vacuo. The residue was dissolved in fresh dichloromethane, washed once with 2 N aqueous hydrochloric acid, once with saturated aqueous sodium chloride solution, twice with saturated aqueous sodium bicarbonate solution, three times with water, dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was crystallized from ether/hexanes to give an initial crop of 15.2 g (22%) of the title compound as an off-white solid, followed by additional crops totalling 16.9 g (24%).

reactant | anthranilic acid | 250 mmol, 34.3 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 4-tert-butylbenzoyl chloride | 94 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | hydrochloric acid | 2 N, 100 mL | Cl | ClH
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-tert-Butylphenyl)-4H-3,1-benzoxazin-4-one | 15.2 g, 22% | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | C18H17NO2
